US04748273
A four neck flask was charged with 10 ml of N-methylpyrrolidone, and 1.02 g (10 mM) of phenylacetylene was dissolved therein. Separately one dropping funnel was charged with 150 mg of hydroxylamine hydrochloride, 100 mg of copper chloride and 5 g of a 70% aqueous solution of ethylamine, and another dropping funnel was charge with 2.61 g (10 mM) of 11-bromo-10-undecynoic acid in 10 ml of a 10 % methanol solution of potassium hydroxide. After attaching the funnels to the flask, the flask was filled with nitrogen gas and then the mixture was kept at 15° C. First the ethylamine solution of copper chloride was added dropwise while vigorously agitaging the mixture in the flask. Then the methanol solution of potassium hydroxide which dissolved 11-bromo-10-undecynoic acid was added dropwise for 1 hour at 20° C. while agitating the mixture. The agitation was continued for another 6 hours at 20° C. While keeping the inner temperature of the vessel at a temperature of not more than 22° C., 2N-aqueous sulfuric acid solution was added dropwise to change the reaction mixture from alkaline state to acid state. After adding 100 ml of water, the mixture was extructed with 500 ml of diethyl ether. The obtained ether layer was dried on anhydrous sodium sulfate, followd by removing the ether. The residue was recrystallized from petroleum ether to give a crystal of 13-phenyl-10,12-tridecadiynoic acid (yield: 48%).

reactant | phenylacetylene | 10 mM, 1.02 g | C1(=CC=CC=C1)C#C | C8H6
reactant | hydroxylamine hydrochloride | 150 mg | Cl.NO
reactant | ethylamine | C(C)N | C2H7N
reactant | 11-bromo-10-undecynoic acid | 10 mM, 2.61 g | BrC#CCCCCCCCCC(=O)O | C11H17BrO2
reactant | potassium hydroxide | [OH-].[K+]
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
catalyst | copper chloride | 100 mg | [Cu](Cl)Cl
solvent | diethyl ether | 500 ml | C(C)OCC | C4H10O
solvent | water | 100 ml | O | H2O
solvent | methanol | CO | CH4O
solvent | N-methylpyrrolidone | 10 ml | CN1C(CCC1)=O | C5H9NO
product | 13-phenyl-10,12-tridecadiynoic acid | yield: 48% | C1(=CC=CC=C1)C#CC#CCCCCCCCCC(=O)O | C19H22O2
